US07915250B2
A solution of benzyl 3-hydroxy-3-(2-oxocyclohexyl)azetidine-1-carboxylate (100 mg, 330 mmol) in methanol (1.60 mL) in the presence of ammonium acetate (191 mg, 2.48 mmol was cooled to 0° C. for 1 hour. Sodium cyanoborohydride (81.5 mg, 1.30 mmol) was added and the mixture was stirred at room temperature for 16 hours. To the reaction mixture was added 6 N hydrogen chloride (800 μL) and extracted with ethyl acetate. The aqueous layer was basified with aqueous sodium bicarbonate (pH 9) and extracted with dichloromethane. The combined organic portion was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford benzyl-3-(2-aminocyclohexyl)-3-hydroxyazetidine-1-carboxylate (73.7 mg, 73%). MS (EI) for C17H24N2O3: 305 (MH+).

reactant | benzyl 3-hydroxy-3-(2-oxocyclohexyl)azetidine-1-carboxylate | 330 mmol, 100 mg | OC1(CN(C1)C(=O)OCC1=CC=CC=C1)C1C(CCCC1)=O | C17H21NO4
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | Sodium cyanoborohydride | 1.30 mmol, 81.5 mg | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | 6 N, 800 μL | Cl | ClH
solvent | methanol | 1.60 mL | CO | CH4O
product | benzyl-3-(2-aminocyclohexyl)-3-hydroxyazetidine-1-carboxylate | 73.7 mg, 73% | C(C1=CC=CC=C1)OC(=O)N1CC(C1)(O)C1C(CCCC1)N | C17H24N2O3
